US07632832B2
(3R)-2-Oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl 4-[2-oxo-4-(3-methoxyphenyl)-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate
The title compound was prepared in the same way as (3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl 4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxylate, except using 4-(3-methoxyphenyl)-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one hydrochloride in place of 4-phenyl-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one hydrochloride. MS 634.2266 (M+1)

reactant | (3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl 4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxylate | O=C1N(C=C(N1)C1=CC=CC=C1)C1CCN(CC1)C(=O)O[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C32H28F3N5O4
reactant | 4-(3-methoxyphenyl)-1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one hydrochloride | Cl.COC=1C=C(C=CC1)C=1NC(N(C1)C1CCNCC1)=O
product | (3R)-2-Oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl 4-[2-oxo-4-(3-methoxyphenyl)-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate | O=C1N(C=C(N1)C1=CC(=CC=C1)OC)C1CCN(CC1)C(=O)O[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C33H30F3N5O5
